US07528124B2
Step 13-1: Synthesis of 5-chloro-3-hydroxy-3-[2-(trifluoromethoxy)phenyl]-6-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one
21 mL of a heptane solution of 1.6 mol/L tert-butyllithium was added dropwise under −78° C. cooling to a 30 mL diethyl ether solution of 4.00 g of tert-butyl[4-chloro-3-(trifluoromethyl)phenyl]carbamate, and the reaction mixture was stirred for 1 hour. The temperature was then raised to −40° C., and the reaction mixture was stirred for 2.5 hours at that temperature. The reaction mixture was cooled back down to −78° C., a 15 mL tetrahydrofuran solution of 4.25 g of ethyl oxo[2-(trifluoromethoxy)phenyl]acetate was added dropwise, and the reaction mixture was stirred for 2 hours at the same temperature. The temperature was then raised to room temperature, and the reaction mixture was stirred for 15 hours. A saturated ammonium chloride aqueous solution was added to the reaction solution, extraction was performed with ethyl acetate, the organic layer was washed with saturated brine and dried with magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography (silica gel 60, mobile phase: ethyl acetate/hexane=1/4; v/v) to obtain 3.57 g of the titled compound (colorless powder).

reactant | tert-butyllithium | 1.6 mol/L | C(C)(C)(C)[Li]
reactant | tert-butyl[4-chloro-3-(trifluoromethyl)phenyl]carbamate | 4.00 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C12H13ClF3NO2
reactant | ethyl oxo[2-(trifluoromethoxy)phenyl]acetate | 4.25 g | O=C(C(=O)OCC)C1=C(C=CC=C1)OC(F)(F)F | C11H9F3O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | heptane | 21 mL | CCCCCCC | C7H16
product | 5-chloro-3-hydroxy-3-[2-(trifluoromethoxy)phenyl]-6-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one | 3.57 g | ClC=1C=C2C(C(NC2=CC1C(F)(F)F)=O)(C1=C(C=CC=C1)OC(F)(F)F)O | C16H8ClF6NO3
